US07456218B2
methyl 3-bromo-4-hydroxybenzoate
A solution of 3-bromo-4-hydroxybenzoic acid (50.4 g, 232 mmol) and conc. sulfuric acid (17 mL) in methanol (330 mL) was heated under reflux for 24 hrs. The reaction mixture was neutralized with aqueous sodium hydroxide solution. Methanol was removed under reduced pressure and the residue was extracted with ethyl acetate. The extract was washed with aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained crystals were washed with diethyl ether/hexane to give the title compound (45.5 g, yield 85%) as pale-pink crystals.

reactant | 3-bromo-4-hydroxybenzoic acid | 232 mmol, 50.4 g | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
reactant | sulfuric acid | 17 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 330 mL | CO | CH4O
product | methyl 3-bromo-4-hydroxybenzoate | 45.5 g, yield 85% | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
